US09233979B2
7-chloro-3-ethyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine (35 mg, 0.075 mmol), (R)-1-(1-phenylethyl)urea (18.5 mg, 0.113 mmol), cesium carbonate (73.6 mg, 0.226 mmol) and BrettPhos pre-catalyst (6.8 mg) were charged in a 1 dram vial, evacuated and backfilled with nitrogen and taken in 1,4-dioxane (0.4 mL) and heated reaction at 100° C. for 1 hour. The reaction mixture was diluted with DCM, washed with water, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-75% EtOAc-hexanes) gave (R)-1-(3-ethyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. for C38H36N6O [M+H]+ 593. found 593.

reactant | 7-chloro-3-ethyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine | 0.075 mmol, 35 mg | ClC1=NC=2CCN(C=3C2C(=C1)N(N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC | C29H25ClN4
reactant | (R)-1-(1-phenylethyl)urea | 0.113 mmol, 18.5 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
reactant | cesium carbonate | 0.226 mmol, 73.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | BrettPhos | 6.8 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-ethyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea | C(C)N1C=2C=3C(=CC(=NC3CC1)NC(=O)N[C@H](C)C1=CC=CC=C1)N(N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H36N6O
